US08067457B2
To a solution of benzyl rel-(3R,4R)-3-(allyloxy)-4-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidine-1-carboxylate (575.6 mg, 1.13 mmol) in acetonitrile (5 mL) at 0° C. was added TMSI (1.3 mL, 9.04 mmol) dropwise. The reaction mixture was stirred at 0° C. for 2 h and room temperature for 3 h. The reaction was quenched by adding HCl (1N, 15 mL). The mixture was extracted from with EtOAc (15 mL×3). The aqueous phase was neutralized with NaOH (1N) to pH=10. DCM/isopropanol (4:1, 10 mL×3) was used to extract from the aqueous layer. The organic layers then were combined, dried over MgSO4, filtered, concentrated under reduced pressure to afford rel-N-(2-{[(3R,4R)-4-(allyloxy)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide which was used without further purification (115.6 mg).

reactant | benzyl rel-(3R,4R)-3-(allyloxy)-4-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidine-1-carboxylate | 1.13 mmol, 575.6 mg | C(C=C)O[C@@H]1CN(C[C@H]1NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C(=O)OCC1=CC=CC=C1 | C25H26F3N3O5
reactant | TMSI | 9.04 mmol, 1.3 mL | [Si](C)(C)(C)I | C3H9ISi
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | rel-N-(2-{[(3R,4R)-4-(allyloxy)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | C(C=C)O[C@H]1[C@@H](CNC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C17H20F3N3O3
